US05500406
Then, the 2-imino-3-n-butylthiazolidine hydroiodide was stirred together with 5.28 g (80 mmol) of 85% potassium hydroxide in 300 ml of methanol at room temperature for one hour. Methanol was distilled off under reduced pressure. Then, 200 ml of chloroform was added to the residue, and precipitated insoluble matters were removed by filtration. Chloroform was distilled off under reduced pressure, and 6.9 g of 2-imino-3-n-butylthiazolidine was obtained by distillation under reduced pressure.

reactant | 2-imino-3-n-butylthiazolidine hydroiodide | I.N=C1SCCN1CCCC
reactant | potassium hydroxide | 80 mmol, 5.28 g | [OH-].[K+]
solvent | methanol | 300 ml | CO | CH4O
product | 2-imino-3-n-butylthiazolidine | 6.9 g | N=C1SCCN1CCCC | C7H14N2S
